US05962495
b) 1-[1-(4-cyanophenyl)-4-phenyl-1-butenyl]-1,2,4-triazole
1-[1-(4-cyanophenyl)-2-hydroxy4-phenylbutyl]-1,2,4-triazole (0.42 g, 0.00132 mol) is dissolved into acetonitrile. Phosphorous pentachloride (0.27 g, 0.0013 mol) is added into the solution and the mixture is refluxed for 2 hours. Acetonitrile is evaporated, the residue is dissolved with 2 M aqueous sodium hydroxide and extracted with methylene chloride. Methylene chloride is dried and the product is crystallized from ethyl acetate as hydrogen chloride salt (isomer a).

reactant | 1-[1-(4-cyanophenyl)-2-hydroxy4-phenylbutyl]-1,2,4-triazole | 0.00132 mol, 0.42 g | C(#N)C1=CC=C(C=C1)C(C(CCC1=CC=CC=C1)O)N1N=CN=C1 | C19H18N4O
reactant | Phosphorous pentachloride | 0.0013 mol, 0.27 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[1-(4-cyanophenyl)-4-phenyl-1-butenyl]-1,2,4-triazole | C(#N)C1=CC=C(C=C1)C(=CCCC1=CC=CC=C1)N1N=CN=C1 | C19H16N4
